datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[O:27][O:28][H:29]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[H:24][O:27][O:28][H:29],59.99856
[C:0]([C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[C:5](=[C:6]([H:16])[H:17])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:4]1([H:13])[H:14],54.6012
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])[H:4].[C:10](=[O:11])[H:12]>>[C-:10]#[O+:11].[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])([H:4])[H:12],0.0
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22])[H:7])[H:6],-10.0834
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6](=[C:5]([H:10])[H:11])[H:12])([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18],105.855
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([H:23])([H:24])[H:25])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13]([C:12]([H:21])[H:22])([C:14]([H:23])([H:24])[H:25])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])[H:5],51.505
[C:0](=[C:1]([C:2]([C:3]([O:4])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6]>>[C:0](=[C:1]([C:2]([C:3]([O:4][H:5])([H:10])[H:11])([H:8])[H:9])[H:7])[H:6],111.445
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[H:27]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[H:24][H:27],28.267104
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12](=[C:13][C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])([H:5])[C:13](=[C:12]([H:15])[H:16])[C:14]([H:17])([H:18])[H:19],3.72376
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[C:6]([C:7]([C:8]([C:9]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:10])[H:11]>>[C:0](=[C:1]([C:2]([H:12])[H:13])[C:6]([C:7]([C:8]([C:9]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:10])[H:11].[C:3]([C:4]([C:5]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15],313.624272
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[c:18]1[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]1[H:28]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[c:18]1[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]1[H:28])[H:10],-4.47688
[O:0]=[C:1]([S:2])[H:3]>>[H:3].[O:0]=[C:1]=[S:2],75.22832
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20]([c:21]1[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]1[H:33])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[C:20]([c:21]1[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]1[H:33])([H:27])[H:28])[H:10])([H:8])[H:9],47.9068
[C:0](#[N:1])[H:2].[O:3][O:4]>>[C:0]#[N:1].[H:2][O:3][O:4],314.2184
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5](=[C:6]([H:19])[H:20])[H:18])[C:7]([C:8]([C:9]([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])([H:23])[H:24])([H:21])[H:22])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([C:5](=[C:6]([H:19])[H:20])[H:18])[C:7]([H:21])([H:22])[C:8]([H:23])([H:24])[C:9]1([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])[H:14])([H:12])[H:13],71.1698
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](=[C:12]([C:13]([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:13]([C:12](=[C:11]([H:16])[H:17])[H:18])([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19],42.5931
